US07259183B2
A 1.6 molar solution of n-BuLi in hexane (1.38 ml, 2.2 mmol) was diluted with 3 ml THF and cooled to −78° C. Then, a solution of 203 mg of 6-fluoro-5-trifluoromethyl-1H-indole (1 mmol) in 1 ml THF was added dropwise, keeping the internal temperature below −70° C. After 5 min a solution of 269 mg potassium tert-butoxide (2.4 mmol) in 1 ml THF was added, again keeping the internal temperature below −70° C. The reaction mixture was then stirred for 2 h. Then dry ice was added and the mixture was allowed to warm to 10° C. Water was added and the phases were separated. The aqueous phase was washed twice with ether, then acidified with 1 N HCl solution and extracted several times with DCM. The combined DCM extracts were dried with magnesium sulfate, filtered and the solvent was evaporated. The remaining residue was triturated with pentane. Final filtration yielded 105 mg (42%) of 6-fluoro-5-trifluoromethyl-1H-indole-7-carboxylic acid as an off-white solid. 1H-NMR (DMSO-d6, 300 MHz): δ 6.63 (m, 1H), 7.43 (t, J=3 Hz, 1H), 8.15 (d, J=7 Hz, 1H), 11.49 (br s, 1H), 13.70 (br s, 1H).

reactant | n-BuLi | [Li]CCCC
reactant | hexane | 2.2 mmol, 1.38 ml | CCCCCC | C6H14
reactant | 6-fluoro-5-trifluoromethyl-1H-indole | 1 mmol, 203 mg | FC1=C(C=C2C=CNC2=C1)C(F)(F)F | C9H5F4N
reactant | potassium tert-butoxide | 2.4 mmol, 269 mg | CC(C)([O-])C.[K+]
reactant | dry ice | C(=O)=O | CO2
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | 6-fluoro-5-trifluoromethyl-1H-indole-7-carboxylic acid | 105 mg, 42% | FC1=C(C=C2C=CNC2=C1C(=O)O)C(F)(F)F | C10H5F4NO2
